US04192888
A mixture of 0.4 g. of 5-chloro-2-indanone (0.0025 mole) was partially dissolved in methanol (10 ml.) and 0.4 g. of sodium cyanoborohydride (0.0065 mole) and 0.6 g. of dimethylamine hydrochloride (0.0075 mole) were added. The pH of the mixture was adjusted to 4.5 with 10% hydrochloric acid and 3 A molecular sieves were added. The mixture was stirred for 16 hours at 25° C., acidified, evaporated to dryness, dissolved in 10% hydrochloric acid, extracted with ether, basified and extracted with ether to yield N,N-dimethyl-5-chloro-2-aminoindane.

reactant | 5-chloro-2-indanone | 0.0025 mole | ClC=1C=C2CC(CC2=CC1)=O | C9H7ClO
reactant | sodium cyanoborohydride | 0.0065 mole | C(#N)[BH3-].[Na+]
reactant | dimethylamine hydrochloride | 0.0075 mole | Cl.CNC
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | N,N-dimethyl-5-chloro-2-aminoindane | CN(C1CC2=CC=C(C=C2C1)Cl)C | C11H14ClN
